* source NILM_PROJECT_TEST2
X_U1         VIN 0 V+ V- VOUT 0 N00879 N00171 INA821 
R_R1         N00171 N00879  24.7k TC=0,0 
V_V2         V+ 0 15
V_V3         0 V- 15
V_V4         VIN 0  
+PULSE 0 3.3 200m 1n 1n 200m 400m
R_R2         0 VOUT  1k TC=0,0 
